US04166174
A mixture of 1,2,3,6-tetrahydro-2-[1-(4-methoxyphenyl)-1-methylethyl]-4-methylpyridine (2.9 g), pentyl iodide (2.34 g), potassium carbonate (3 g) and dimethylformamide (20 ml) was heated to reflux for 4 hours while stirring. After cooling and adding water, the reaction product was extracted with benzene. The extract was washed twice with water, dried over potassium carbonate and distilled to remove benzene to obtain 2.8 g of 1,2,3,6-tetrahydro-1-pentyl-2-[1-(4-methoxyphenyl)-1-methylethyl]-4-methylpyridine as a viscous mass. To the mass was added 20 ml of 47% hydrobromic acid and the mixture was heated to reflux for 10 hours while stirring, after cooling, made alkaline with a concentrated ammonia water under cooling and extracted with chloroform. The extract was dried over sodium sulfate and distilled to remove chloroform. The residue was fed to a column chromatograph on silica gel and eluted with chloroform. Chloroform was distilled off from the eluate to obtain 2.2 g of 1,2,3,4,5,6-hexahydro-8-hydroxy-3-pentyl- 2,6-methano-1,1,6-trimethyl-3-benzazocine as a viscous mass. The product was treated as in Example 1-(5) to obtain the corresponding hydrochloride as colorless fine needles having a melting point above 230° C. (sublimable) after the recrystallization from methanol-ethyl ether.

reactant | 1,2,3,6-tetrahydro-2-[1-(4-methoxyphenyl)-1-methylethyl]-4-methylpyridine | 2.9 g | COC1=CC=C(C=C1)C(C)(C)C1NCC=C(C1)C | C16H23NO
reactant | pentyl iodide | 2.34 g | C(CCCC)I | C5H11I
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,2,3,6-tetrahydro-1-pentyl-2-[1-(4-methoxyphenyl)-1-methylethyl]-4-methylpyridine | 2.8 g | C(CCCC)N1C(CC(=CC1)C)C(C)(C)C1=CC=C(C=C1)OC | C21H33NO
